US07776857B2
Step 2: N5-(7-Methoxyquinolin-4-yl)pyrimidine-2,5-diamine
In 25 mL sealed tube, N-(5-(7-methoxyquinolin-4-ylamino)pyrimidin-2-yl)benzamide (400 mg, 1077 μmol) was added into 6 ml of MeOH followed by addition of 2 mL of HCl (conc.). The reaction was heated at 80° C. After 1.5 h the reaction mixture based on LCMS showed full conversion to desired product [M+H]++1=269 @ 0.8 min—protonated form. The reaction was cooled to 0° C., 50 mL of CH2Cl2 was added, and the mixture was neutralized with 6N NaOH. Solid precipitated out of the solution in the aqueous layer. The whole mixture was concentrated under reduced pressure. The solid was filtered off with an aid of water to yield a sticky solid. The solid was transferred into a flask with an aid of MeOH. The solvent was evaporated under reduced pressure to afford N5-(7-methoxyquinolin-4-yl)pyrimidine-2,5-diamine as a gray solid.

reactant | N-(5-(7-methoxyquinolin-4-ylamino)pyrimidin-2-yl)benzamide | 1077 μmol, 400 mg | COC1=CC=C2C(=CC=NC2=C1)NC=1C=NC(=NC1)NC(C1=CC=CC=C1)=O | C21H17N5O2
reactant | HCl | 2 mL | Cl | ClH
solvent | MeOH | 6 ml | CO | CH4O
product | N5-(7-Methoxyquinolin-4-yl)pyrimidine-2,5-diamine | COC1=CC=C2C(=CC=NC2=C1)NC=1C=NC(=NC1)N | C14H13N5O
